US04731452
489 g (3 mols) of 2,4-dichlorophenol are dissolved in 1.2 liters of N-methylpyrrolidone, and 600 ml (3 mols) of a 30% strength solution of sodium methylate are added. Methanol and 200 ml of N-methylpyrrolidone are distilled off at 20 mbar. 201 g (1 mol) of 1,1,5-trichloro-3,3-dimethyl-1-pentene are slowly added dropwise at 200° C. and atmospheric pressure. The mixture is then stirred at 200° C. for 6 hours. The solution obtained is diluted with methylene chloride and extracted by shaking several times with dilute sodium hydroxide solution. The dried solution is evaporated and the remaining solvent removed at 0.1 mbar and 150° C. 410 g (90% of theory) of 1-chloro-3,3-dimethyl-1,5-di(2,4-dichlorophenoxy)-1-pentene are obtained as an oil.

reactant | 2,4-dichlorophenol | 3 mols, 489 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | sodium methylate | C[O-].[Na+]
reactant | 1,1,5-trichloro-3,3-dimethyl-1-pentene | 1 mol, 201 g | ClC(=CC(CCCl)(C)C)Cl | C7H11Cl3
solvent | N-methylpyrrolidone | 1.2 liters | CN1C(CCC1)=O | C5H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-chloro-3,3-dimethyl-1,5-di(2,4-dichlorophenoxy)-1-pentene | 410 g, 90% | ClC(=CC(CCOC1=C(C=C(C=C1)Cl)Cl)(C)C)OC1=C(C=C(C=C1)Cl)Cl | C19H17Cl5O2
